US04242518
15 parts by volume of an 0.5 molar solution of diazomethane in ether are added in the course of about 10 minutes to a solution, cooled to 0° C., of 1.6 parts of 3-oxo-tetrahydrothiophene-4-carboxylic acid methyl ester in 10 parts by volume of dry chloroform. The solution is stirred for 21 hours at 0° C., flushed with nitrogen to remove excess diazomethane and concentrated under reduced pressure. The residue is recrystallized from methylene chloride/petroleum ether. 1.5 parts (86% of theory) of 3-methoxy-dihydrothiophene-4-carboxylic acid methyl ester of melting point 79°-81° C. are obtained.

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | 3-oxo-tetrahydrothiophene-4-carboxylic acid methyl ester | COC(=O)C1C(CSC1)=O | C6H8O3S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ether | CCOCC | C4H10O
product | 3-methoxy-dihydrothiophene-4-carboxylic acid methyl ester | 86% | COC(=O)C=1C(CSC1)OC | C7H10O3S
